US06335459B1
1.0M Lithium aluminum hydride in tetrahydrofuran (35.07 mL, 35.07 mmol) was added to a solution of 3-(3-hydroxyphenyl)propionic acid methyl ester (3.16 g, 17.5 mmol) in tetrahydrofuran (30 mL) at 0-5° C. under an argon atmosphere. The mixture was stirred at room temperature for 6 hours, and sodium sulfate decahydrate (15 g) was added to the mixture, followed by cooling to 0-5° C., and a dropwise addition of water (about 10 mL) and concentrated hydrochloric acid to pH 2-3. The mixture was extracted with ethyl acetate, and the extract was washed with water, brine, dried over magnesium sulfate, and concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave 3-(3-hydroxypropyl)phenol as a clear oil (2.34 g, 88%).

reactant | Lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-hydroxyphenyl)propionic acid methyl ester | 17.5 mmol, 3.16 g | COC(CCC1=CC(=CC=C1)O)=O | C10H12O3
reactant | sodium sulfate decahydrate | 15 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35.07 mmol, 35.07 mL | O1CCCC1 | C4H8O
solvent | water | about 10 mL | O | H2O
product | 3-(3-hydroxypropyl)phenol | 2.34 g, 88% | OCCCC=1C=C(C=CC1)O | C9H12O2
